US09302988B2
Step 1: [1-(3-chlorophenyl)-3-(4-chlorophenyl)-4-methyl-pyrrol-2-yl]-(3,3-difluoroazetidin-1-yl)methanone
[1-(3-chlorophenyl)-3-(4-chlorophenyl)-4-methyl-pyrrol-2-yl]-(3,3-difluoroazetidin-1-yl)methanone was synthesised according to the procedure described for [3-(4-Chlorophenyl)-1-(3-methoxyphenyl)-4-methyl-pyrrol-2-yl]-(3,3-difluoroazetidin-1-yl)methanone (SC-32) using 1-chloro-3-iodobenzene (1 mL, 8 mmol) and [3-(4-chlorophenyl)-4-methyl-1H-pyrrol-2-yl]-(3,3-difluoroazetidin-1-yl)methanone (200 mg, 0.6 mmol). The product was purified by preparative HPLC (preparative Agilent 1200 Series HPLC system using 30%-95% acetonitrile/water (0.1% Ammonia aq.) over 15 minutes, collecting at 254 nm) to afford the title compound as an off-white solid (223 mg, 89% yield).

reactant | [3-(4-Chlorophenyl)-1-(3-methoxyphenyl)-4-methyl-pyrrol-2-yl]-(3,3-difluoroazetidin-1-yl)methanone | ClC1=CC=C(C=C1)C1=C(N(C=C1C)C1=CC(=CC=C1)OC)C(=O)N1CC(C1)(F)F | C22H19ClF2N2O2
reactant | 1-chloro-3-iodobenzene | 8 mmol, 1 mL | ClC1=CC(=CC=C1)I | C6H4ClI
reactant | [3-(4-chlorophenyl)-4-methyl-1H-pyrrol-2-yl]-(3,3-difluoroazetidin-1-yl)methanone | 0.6 mmol, 200 mg | ClC1=CC=C(C=C1)C1=C(NC=C1C)C(=O)N1CC(C1)(F)F | C15H13ClF2N2O
product | [1-(3-chlorophenyl)-3-(4-chlorophenyl)-4-methyl-pyrrol-2-yl]-(3,3-difluoroazetidin-1-yl)methanone | 223 mg, 89% yield | ClC=1C=C(C=CC1)N1C(=C(C(=C1)C)C1=CC=C(C=C1)Cl)C(=O)N1CC(C1)(F)F | C21H16Cl2F2N2O
